US06908930B2
SYNTHESIS OF 4-(3-CHLORO-4-FLUORO-PHENYLAMINO)-5-[3-METHYL-5-(3,4,5-TRIMETHYL-PIPERAZINE-1-CARBONYL)-1H-PYRROL-2-YLMETHYLENE]-5,7-DIHYDRO-PYRROLO[2,3-D]PYRIMIDIN-6-ONE (FORMULA 53)
4-(3-Chloro-4-fluoro-phenylamino)-5,7-dihydro-pyrrolo[2,3-d]pyrimidin-6-one was condensed with 3-methyl-5-(3,4,5-trimethyl-piperazine-1-carbonyl)-1H-pyrrole-2-carbaldehyde to give the title compound. 1H NMR (360 MHz, DMSO-d6) δ 13.41 (br s, 1H, NH), 11.78 (br s, 1H, NH), 9.23 (br s, 1H), 8.33 (s, 1H), 7.72 (dd, J=2.5 & 6.5 Hz, 1H), 7.43 (m, 1H), 7.33-7.38 (m, 2H), 6.58 (m, 1H), 4.19 (m, 2H, CH2), 2.78 (m, 2H), 2.23 (s, 3H, CH3), 2.18 (s, 3H, CH3), 2.11 (m, 2H), 1.06 (d, J=6.6 Hz, 6H, 2×CH3). MS 524 [M++1].

reactant | 4-(3-Chloro-4-fluoro-phenylamino)-5,7-dihydro-pyrrolo[2,3-d]pyrimidin-6-one | ClC=1C=C(C=CC1F)NC=1C2=C(N=CN1)NC(C2)=O | C12H8ClFN4O
reactant | 3-methyl-5-(3,4,5-trimethyl-piperazine-1-carbonyl)-1H-pyrrole-2-carbaldehyde | CC1=C(NC(=C1)C(=O)N1CC(N(C(C1)C)C)C)C=O | C14H21N3O2
product | 4-(3-CHLORO-4-FLUORO-PHENYLAMINO)-5-[3-METHYL-5-(3,4,5-TRIMETHYL-PIPERAZINE-1-CARBONYL)-1H-PYRROL-2-YLMETHYLENE]-5,7-DIHYDRO-PYRROLO[2,3-D]PYRIMIDIN-6-ONE | ClC=1C=C(C=CC1F)NC=1C2=C(N=CN1)NC(C2=CC=2NC(=CC2C)C(=O)N2CC(N(C(C2)C)C)C)=O | C26H27ClFN7O2
